US04647569
A solution of 1-(3-chlorophenylsulphonyl)-2-ethoxy-1-phenylsulphonylethene (3.13 g) and 2-amino-5-bromopyridine (1.4 g) in dimethylacetamide (20 ml) was heated at reflux for 3.5 hours. The solution was cooled and poured onto ice (200 g), and the resulting pale yellow solid was filtered off and recrystallised from aqueous ehtaol (95% v/v), to give 2-(5-bromopyrid-2-ylamino)-1-(3-chloropheylsulphonyl)-1-phenylsulphonylethene (2.5 g), m.p. 170°-172° C.

reactant | 1-(3-chlorophenylsulphonyl)-2-ethoxy-1-phenylsulphonylethene | 3.13 g | ClC=1C=C(C=CC1)S(=O)(=O)C(=COCC)S(=O)(=O)C1=CC=CC=C1 | C16H15ClO5S2
reactant | 2-amino-5-bromopyridine | 1.4 g | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 2-(5-bromopyrid-2-ylamino)-1-(3-chloropheylsulphonyl)-1-phenylsulphonylethene | 2.5 g | BrC=1C=CC(=NC1)NC=C(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC(=CC=C1)Cl | C19H14BrClN2O4S2
